US04931436
6,11-Dihydro-11-[[3-[3-(1-piperidinyl)propyl]1-piperidinyl]carbonyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 3-[3-(1-piperidinyl)propyl]piperidine in a yield of 58% of theory. Colourless crystals, m.p. 165.5°-167.0° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[3-(1-piperidinyl)propyl]piperidine | N1(CCCCC1)CCCC1CNCCC1 | C13H26N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 6,11-Dihydro-11-[[3-[3-(1-piperidinyl)propyl]1-piperidinyl]carbonyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | yield of 58% | N1(CCCCC1)CCCC1CN(CCC1)C(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C26H33N5O2
